US06194447B1
3-Cyanamidobenzotrifluoride.
A mixture of 3-aminobenzotrifluoride (15.0 g, 93.1 mmol), cyanogen bromide (12.2 g, 129 mmol) and diethyl ether was stirred at reflux for 40 h. The crude mixture was purified by chromatography using silica gel and a mixture of petroleum ether and dichloromethane as eluent (1:1). The product was isolated as the free base. Yield 5.2 g, 25%.

reactant | 3-aminobenzotrifluoride | 93.1 mmol, 15.0 g | NC=1C=C(C=CC1)C(F)(F)F | C7H6F3N
reactant | cyanogen bromide | 129 mmol, 12.2 g | N#CBr | CBrN
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3-Cyanamidobenzotrifluoride | N(C#N)C=1C=C(C=CC1)C(F)(F)F | C8H5F3N2
